US09422279B2
To a solution of ethyl 3-oxotetrahydro-2H-pyran-4-carboxylate (1.0 g, 5.81 mmol) in DCM (30 mL) was added DIPEA (1.22 mL, 6.97 mmol) and Tf2O (1.08 mL, 6.39 mmol) at −78° C., then it was warmed up to room temperature and stirred at room temperature for 2 h, the solution was diluted with DCM, washed with Sat. NaHCO3, brine, dried and concentrated to give ethyl 5-(((trifluoromethyl)sulfonyl)oxy)-3,6-dihydro-2H-pyran-4-carboxylate as crude product (2 g).

reactant | ethyl 3-oxotetrahydro-2H-pyran-4-carboxylate | 5.81 mmol, 1.0 g | O=C1COCCC1C(=O)OCC | C8H12O4
reactant | DIPEA | 6.97 mmol, 1.22 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Tf2O | 6.39 mmol, 1.08 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | ethyl 5-(((trifluoromethyl)sulfonyl)oxy)-3,6-dihydro-2H-pyran-4-carboxylate | FC(S(=O)(=O)OC1=C(CCOC1)C(=O)OCC)(F)F | C9H11F3O6S
